US05530019
Step 2: Preparation of 1-(4-isobutylphenyl)pentanol
To a solution of 4'-isobutylvalerophenone in 2-propanol was added sodium borohydride, and the mixture was stirred at 50° C. for 5 hours. The reaction mixture was poured into ice water, acidified with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated to give the object compound.

reactant | 4'-isobutylvalerophenone | C(C(C)C)C1=CC=C(C=C1)C(CCCC)=O | C15H22O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-(4-isobutylphenyl)pentanol | C(C(C)C)C1=CC=C(C=C1)C(CCCC)O | C15H24O
